US04618677
The procedure described in Example 2 was followed, using 0.5 g of isopropyl isocyanate, 2.0 g of 3-[4-(4-chlorobenzyl)piperazin-1-yl]propanethiol dihydrochloride, 0.7 g of triethylamine and 50 ml of methylene chloride, to give 0.7 g (28% of theory) of N-isopropyl-S-{3-[4-(4-chlorobenzyl)piperazin-1-yl]propyl}thiocarbamate dihydrochloride as a white crystalline solid, M.p. 247°-250° C.

reactant | isopropyl isocyanate | 0.5 g | C(C)(C)N=C=O | C4H7NO
reactant | 3-[4-(4-chlorobenzyl)piperazin-1-yl]propanethiol dihydrochloride | 2.0 g | Cl.Cl.ClC1=CC=C(CN2CCN(CC2)CCCS)C=C1
reactant | triethylamine | 0.7 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | N-isopropyl-S-{3-[4-(4-chlorobenzyl)piperazin-1-yl]propyl}thiocarbamate dihydrochloride | 0.7 g, 28% | Cl.Cl.C(C)(C)NC(O)=SCCCN1CCN(CC1)CC1=CC=C(C=C1)Cl | InChI=1S/C18H30ClN3OS.2ClH/c1-15(2)20-18(23)24-13-3-8-21-9-11-22(12-10-21)14-16-4-6-17(19)7-5-16;;/h4-7,15,20,23-24H,3,8-14H2,1-2H3;2*1H
